US07247638B2
14.1 6-(4-Pyridinyl)-1,4,5,6-tetrahydro-2-pyrimidinamine hydrochloride (1:2)
To a solution of 5 g (29.2 mmoles) of 2-amino-4-(4-pyrimidyl)-pyrimidine (Journal of Medicinal Chemistry (1978), 21(7), 623-8) in 30 ml of a 6N solution of hydrochloric acid in isopropanol was added 5 ml of water and 0.2 g of palladium on carbon catalyst (10% wt/wt). The suspension was hydrogenated under 40 psi pressure at 50° C. temperature during 8 h. The catalyst was removed by filtration and the solvent evaporated under reduced pressure. Isopropanol was added and the resulting solution was refiltered and the solvent removed by evaporation under reduced pressure to give 2.0 g (27%) of compound as a white powder which was used as such.

reactant | 2-amino-4-(4-pyrimidyl)-pyrimidine | 29.2 mmoles, 5 g | NC1=NC=CC(=N1)C1=NC=NC=C1 | C8H7N5
reactant | hydrochloric acid | Cl | ClH
reactant | water | 5 ml | O | H2O
reactant | isopropanol | C(C)(C)O | C3H8O
catalyst | palladium on carbon | 0.2 g | [Pd] | Pd
product | 6-(4-Pyridinyl)-1,4,5,6-tetrahydro-2-pyrimidinamine hydrochloride | 2.0 g, 27% | Cl.N1=CC=C(C=C1)C1CCN=C(N1)N | InChI=1S/C9H12N4.ClH/c10-9-12-6-3-8(13-9)7-1-4-11-5-2-7;/h1-2,4-5,8H,3,6H2,(H3,10,12,13);1H
